US08236810B2
8-Bromo-3-methyl-7-(3-methylbut-2-enyl)-1-(2-oxo-2-phenylethyl)-3,7-dihydropurine-2,6-dione
30 g of 8-bromo-3-methyl-7-(3-methylbut-2-enyl)-3,7-dihydropurine-2,6-dione, 20.6 g of phenacyl bromide and 25.4 g of potassium carbonate are introduced into 400 ml of DMF and heated at an internal temperature of 80° C. for 3 hours. The solution is cooled to about 50° C., and 400 ml of water are slowly added. The mixture is then stirred overnight, and the precipitated solid is filtered off with suction. After washing with water, the pale brown solid is recrystallized from 300 ml of isopropanol.

reactant | 8-bromo-3-methyl-7-(3-methylbut-2-enyl)-3,7-dihydropurine-2,6-dione | 30 g | BrC1=NC=2N(C(NC(C2N1CC=C(C)C)=O)=O)C | C11H13BrN4O2
reactant | phenacyl bromide | 20.6 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | potassium carbonate | 25.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 400 ml | CN(C)C=O | C3H7NO
solvent | water | 400 ml | O | H2O
product | 8-Bromo-3-methyl-7-(3-methylbut-2-enyl)-1-(2-oxo-2-phenylethyl)-3,7-dihydropurine-2,6-dione | BrC1=NC=2N(C(N(C(C2N1CC=C(C)C)=O)CC(C1=CC=CC=C1)=O)=O)C | C19H19BrN4O3
